US08283353B2
N-(1,4-dioxaspiro[4.5]dec-8-yl)-1H-pyrazol-5-amine
A solution of 1H-pyrazol-3-amine (10.0 g) and 1,4-dioxaspiro[4.5]decan-8-one (20.7 g) in methanol (30 mL) was stirred at room temperature for 30 min. After stirring, a solution of sodium tetrahydroborate (3.6 g) in 1 M sodium hydroxide (30 mL) was added dropwise at 0° C. After warming to room temperature, the mixture was stirred for 4 hr, 1 M hydrochloric acid (100 mL) was added dropwise at 0° C., and the mixture was stirred for 1 hr. The resulting solid was collected by filtration, washed with water, and dried by heating under reduced pressure to give the title compound as a pale-yellow solid (17.2 g, 64%).

reactant | 1H-pyrazol-3-amine | 10.0 g | N1N=C(C=C1)N | C3H5N3
reactant | 1,4-dioxaspiro[4.5]decan-8-one | 20.7 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | sodium tetrahydroborate | 3.6 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1 M, 100 mL | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
solvent | sodium hydroxide | 1 M, 30 mL | [OH-].[Na+]
product | N-(1,4-dioxaspiro[4.5]dec-8-yl)-1H-pyrazol-5-amine | 17.2 g, 64% | O1CCOC12CCC(CC2)NC2=CC=NN2 | C11H17N3O2
